US07470420B2
Synthesis of N-BENZYL-4-ETHENYL-4,7-PHENANTHROLINIUM CHLORIDE (4,7-PHEN SV)
A flame dried, side armed 100-mL round bottom flask, equipped with a magnetic stirring bar, was cooled under argon and charged with 4,7-phenanthroline (2.14 g, 11.86 mmols). The flask was equipped with a reflux condenser attached to an argon (g) line and charged with 4-(chloromethyl)styrene (0.905 g, 0.836 mL, 5.93 mmols) and anhydrous CH3CN (20 mL) through the side arm. The solution was heated to reflux under argon (g) for 17 h, then cooled to room temperature and precipitated with diethyl ether (30 mL). The suspension was allowed to settle and the supernatant removed via cannula. The remaining residue along with 15 mL of solvent was cannulated into a centrifuge tube, triturated with acetone (20 mL), and centrifuged (process repeated 4 times). The brownish/pink solid was triturated with diethyl ether (3×20 mL) and dried under reduced pressure. Yield: 0.376 g, 1.13 mmols (19%). 1H NMR (250 MHz, CD3OD, ppm): 5.266 (d, 1H, 11 Hz), 5.80 (d, 1H, J=17.75 Hz), 6.482 (s, 2H), 6.708 (dd, 1H, J1=11 Hz, J2=17.75 Hz), 7.374 (d, 1H, J=8 Hz), 7.496 (d, 1H, J=8 Hz) 8.00, (dd, 1H, J1=4 Hz, J2=8.5 Hz), 8.453 (dd, 1H, J1=6 Hz, J2=8.5 Hz), 8.60 (d, 1H, J=10 Hz), 8.697 (d, 1H, J=10 Hz), 9.20 (d, 1H, J=4 Hz), 9.50 (d, 1H, J=8.25 Hz), 9.65 (d, 1H, J=5.75 Hz), 10.188 (d, 1H, J=8.5 Hz). 13C NMR (62.5 MHz, CD3OD); 62.40, 121.344, 124.899, 126.023, 128.454, 129.031, 130.778, 132.161, 133.893, 134.242, 137.205, 139.848, 140.410, 140.699, 144.041, 147.976, 149.541, 154.661.

reactant | 4,7-phenanthroline | 11.86 mmols, 2.14 g | C1=CC=NC2=CC=C3N=CC=CC3=C12 | C12H8N2
reactant | 4-(chloromethyl)styrene | 5.93 mmols, 0.836 mL, 0.905 g | ClCC1=CC=C(C=C)C=C1 | C9H9Cl
reactant | CH3CN | 20 mL | CC#N | C2H3N
product | N-BENZYL-4-ETHENYL-4,7-PHENANTHROLINIUM CHLORIDE | [Cl-].C(C1=CC=CC=C1)[N+]1(CC=CC2=C3C=CC=NC3=CC=C12)C=C | InChI=1S/C21H19N2.ClH/c1-2-23(16-17-8-4-3-5-9-17)15-7-11-19-18-10-6-14-22-20(18)12-13-21(19)23;/h2-14H,1,15-16H2;1H/q+1;/p-1
